US08383637B2
N-[3-(3-Formyl-4-nitro-phenylsulfanyl)-phenyl]-benzenesulfonamide
A mixture of N-[3-(3-dimethoxymethyl-4-nitro-phenylsulfanyl)-phenyl]-benzenesulfonamide (0.027 mol) in 12N HCl (25 mL), THF (75 mL) and water (50 mL) was stirred overnight at room temperature, and then the mixture was extracted with ethyl acetate. The extract was washed with water and with a saturated aqueous Na2CO3 solution. The solvent was evaporated and the residue was purified by column chromatography over silica gel (eluent: CH2Cl2). The product fractions were collected and the solvent evaporated to yield the title compound as a residue.

reactant | N-[3-(3-dimethoxymethyl-4-nitro-phenylsulfanyl)-phenyl]-benzenesulfonamide | 0.027 mol | COC(C=1C=C(C=CC1[N+](=O)[O-])SC=1C=C(C=CC1)NS(=O)(=O)C1=CC=CC=C1)OC | C21H20N2O6S2
solvent | HCl | 12N, 25 mL | Cl | ClH
solvent | THF | 75 mL | C1CCOC1 | C4H8O
solvent | water | 50 mL | O | H2O
product | N-[3-(3-Formyl-4-nitro-phenylsulfanyl)-phenyl]-benzenesulfonamide | C(=O)C=1C=C(C=CC1[N+](=O)[O-])SC=1C=C(C=CC1)NS(=O)(=O)C1=CC=CC=C1 | C19H14N2O5S2
